US08030500B2
1-(2,6-Dimethylpyridin-4-yl)-4-fluoro-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-3-amine
The title compound was synthesized as described for Example 12 in 50% yield starting from 1-(3-bromophenyl)-1-(2,6-dimethylpyridin-4-yl)-4-fluoro-1H-isoindol-3-amine (70.2 mg, 0.17 mmol), pyrimidin-5-ylboronic acid (23.3 mg, 0.19 mmol), PdCl2(dppf)-CH2Cl2 adduct (14.0 mg, 0.02 mmol), and K2CO3 (aq) (0.26 mL, 0.51 mmol).

reactant | 1-(3-bromophenyl)-1-(2,6-dimethylpyridin-4-yl)-4-fluoro-1H-isoindol-3-amine | 0.17 mmol, 70.2 mg | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC(=C1)C)C | C21H17BrFN3
reactant | pyrimidin-5-ylboronic acid | 0.19 mmol, 23.3 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | K2CO3 | 0.51 mmol, 0.26 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | PdCl2(dppf) CH2Cl2 | 0.02 mmol, 14.0 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 1-(2,6-Dimethylpyridin-4-yl)-4-fluoro-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-3-amine | 50% yield | CC1=NC(=CC(=C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=CC=C1)C=1C=NC=NC1)C | C25H20FN5
